### PR TITLE
feat(Analysis/Complex/Residue): Implement residue theory for complex functions at isolated singularities

### PR DESCRIPTION
**Pull request by Periecle**
# Add basic residue theory for complex functions

  This PR introduces the residue theory implementation in mathlib.

  ## Main additions

  - **`HasIsolatedSingularityAt f c`**: Predicate for functions with isolated singularities at point `c`
  - **`residue f c hf`**: The residue of `f` at isolated singularity `c`, defined via circle integrals
  - **Radius independence**: `residue_eq_two_pi_I_inv_smul_circleIntegral` - residue equals normalized circle integral for any valid radius
  - **Holomorphic residues**: `residue_of_holomorphic` - functions holomorphic in a neighborhood have zero residue
  - **Simple pole formula**: `residue_simple_pole` - for `f(z) = (z-c)⁻¹ * g(z)`, residue equals `g(c)`

  ## Implementation notes

  - Builds on existing circle integral infrastructure in `CauchyIntegral.lean`
  - Uses `Classical.choose` to extract witness radius from isolated singularity condition
  - Comprehensive documentation with mathematical context and examples
  - Establishes foundation for residue theorem, argument principle, and other applications

  ## Examples included

  - `residue(1/z, 0) = 1` (canonical simple pole)
  - Radius independence demonstration
  - Zero residues for holomorphic functions

  This provides the essential building blocks for complex analysis and first step to formalize residue theory.

### CODE REVIEW

File: Mathlib/Analysis/Complex/Residue/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,383 @@
...
+/-- `f` has an isolated singularity at `c` if `f` is holomorphic in a punctured
+neighborhood of `c`. -/
+def HasIsolatedSingularityAt (f : ℂ → ℂ) (c : ℂ) : Prop :=
+  ∃ R > 0, DifferentiableOn ℂ f (ball c R \ {c})
+
+/-- `f` has a removable singularity at `c` if it has an isolated singularity there and
+extends to a holomorphic function in a full neighborhood of `c`. -/
+def HasRemovableSingularityAt (f : ℂ → ℂ) (c : ℂ) : Prop :=
+  HasIsolatedSingularityAt f c ∧ ∃ (g : ℂ → ℂ) (R : ℝ) (_ : 0 < R),
+    DifferentiableOn ℂ g (ball c R) ∧ EqOn f g (ball c R \ {c})
```
Comment (llllvvuu) [inline Mathlib/Analysis/Complex/Residue/Basic.lean:45]: Alternative definition for your consideration (can be converted to your definition using [eventually_nhdsWithin_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/ContinuousOn.html#eventually_nhdsWithin_iff) and [Metric.eventually_nhds_iff_ball](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Pseudo/Defs.html#Metric.eventually_nhds_iff_ball)):

```suggestion
/-- `f` has an isolated singularity at `c` if `f` is holomorphic in a punctured
neighborhood of `c`. -/
def HasIsolatedSingularityAt (f : ℂ → ℂ) (c : ℂ) : Prop :=
  ∀ᶠ x in 𝓝[≠] c, DifferentiableAt ℂ f x

/-- `f` has a removable singularity at `c` if it has an isolated singularity there and
extends to a holomorphic function in a full neighborhood of `c`. -/
def HasRemovableSingularityAt (f : ℂ → ℂ) (c : ℂ) : Prop :=
  HasIsolatedSingularityAt f c ∧ ∃ (g : ℂ → ℂ), DifferentiableAt ℂ g c ∧ f =ᶠ[𝓝[≠] c] g
```

**Comment by loefflerd** [comment]
Since the PR adds a new file to the Mathlib library, you need to add a line to the master index file `Mathlib.lean`. Just run the script `lake exe mk_all` in your mathlib directory, and commit the changes it makes to the PR.

File: Mathlib/Analysis/Complex/Residue/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,383 @@
...
+      (hs := countable_empty) (hc := hcont) (hd := by
+        intro z hz; exact hdiff z hz.1))
+  have eqInt' : (∮ z in C(c, (Classical.choose hf) / 2), f z) = ∮ z in C(c, r), f z := by
+    simpa [R] using Eq.symm eqInt
+  -- Unfold residue and rewrite
+  have : residue f c hf = (2 * π * I : ℂ)⁻¹ • ∮ z in C(c, (Classical.choose hf) / 2), f z := by
+    simp [residue]
+  simp [residue, eqInt'] at this ⊢
+
+/-- The residue can be computed using any sufficiently small circle around the singularity. -/
```
Comment (llllvvuu) [inline Mathlib/Analysis/Complex/Residue/Basic.lean:200]: Another way to approach this PR could be to actually prove this first, before defining residue.

e.g.

```lean
lemma HasIsolatedSingularityAt.eventuallyConst_circleIntegral {f : ℂ → ℂ} {c : ℂ}
    (hf : HasIsolatedSingularityAt f c) :
    (𝓝[>] 0).EventuallyConst fun r ↦ ∮ z in C(c, r), f z := by
  sorry

def HasIsolatedSingularityAt.residue {f : ℂ → ℂ} {c : ℂ} (hf : HasIsolatedSingularityAt f c) : ℂ :=
  (2 * π * I : ℂ)⁻¹ *
  (Filter.eventuallyConst_iff_exists_eventuallyEq.mp hf.eventuallyConst_circleIntegral).choose

theorem HasIsolatedSingularityAt.circleIntegral_eventuallyEq {f : ℂ → ℂ} {c : ℂ}
    (hf : HasIsolatedSingularityAt f c) :
    (fun r => ∮ (z : ℂ) in C(c, r), f z) =ᶠ[𝓝[>] 0] fun _ => (2 * π * I) * hf.residue := by
  unfold residue
  field_simp
  exact (Filter.eventuallyConst_iff_exists_eventuallyEq.mp
    hf.eventuallyConst_circleIntegral).choose_spec
```

In fact, this is probably sufficient to prove `residue_of_holomorphic` and `residue_simple_pole`, and we would have no need of `residue_eq_two_pi_I_inv_smul_circleIntegral_of_le`, `residue_eq_two_pi_I_inv_smul_circleIntegral_of_ge`, `residue_eq_two_pi_I_inv_smul_circleIntegral`, or `safe_radius`.

File: Mathlib/Analysis/Complex/Residue/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,383 @@
...
+    hdf.mono (by intro z hz; exact (hsub hz).1)
+  have hdg' : DifferentiableOn ℂ g (ball c (min Rf Rg) \ {c}) :=
+    hdg.mono (by intro z hz; exact (hsub hz).2)
+  simpa using hdf'.add hdg'
+
+end HasIsolatedSingularityAt
+
+
+/-- The residue of `f` at `c`. This is `(2πi)⁻¹` times the circle integral of `f` around `c`. -/
+def residue (f : ℂ → ℂ) (c : ℂ) (hf : HasIsolatedSingularityAt f c) : ℂ := by
```
Comment (llllvvuu) [inline Mathlib/Analysis/Complex/Residue/Basic.lean:81]: In mathlib we often just define functions on the whole type - for example, Lean/mathlib allow division by zero. Similarly, I might suggest the definition
```suggestion
def residue (f : ℂ → ℂ) (c : ℂ) : ℂ := if h : HasIsolatedSingularityAt f c then ... else 0
```

This might make the residue_of_holomorphic and reside_simple_pole theorems less awkward, since the `HasIsolatedSingularityAt` doesn't really feel like it should be in those theorems.

In fact, we could even consider a definition that doesn't reference `HasIsolatedSingularityAt` at all:

```lean
open scoped Classical in
def residue (f : ℂ → ℂ) (c : ℂ) : ℂ :=
  if h : (𝓝[>] 0).EventuallyConst fun r ↦ ∮ z in C(c, r), f z then
    (2 * π * I : ℂ)⁻¹ * (Filter.eventuallyConst_iff_exists_eventuallyEq.mp h).choose
  else
    0
```

File: Mathlib/Analysis/Complex/Residue/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,383 @@
...
+
+/-- `f` has a removable singularity at `c` if it has an isolated singularity there and
+extends to a holomorphic function in a full neighborhood of `c`. -/
+def HasRemovableSingularityAt (f : ℂ → ℂ) (c : ℂ) : Prop :=
+  HasIsolatedSingularityAt f c ∧ ∃ (g : ℂ → ℂ) (R : ℝ) (_ : 0 < R),
+    DifferentiableOn ℂ g (ball c R) ∧ EqOn f g (ball c R \ {c})
+
+namespace HasIsolatedSingularityAt
+
+variable {f g : ℂ → ℂ} {c : ℂ}
```
Comment (llllvvuu) [inline Mathlib/Analysis/Complex/Residue/Basic.lean:49]: Does the codomain need to be ℂ? I see that in [Complex.circleIntegral_eq_of_differentiable_on_annulus_off_countable](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/CauchyIntegral.html#Complex.circleIntegral_eq_of_differentiable_on_annulus_off_countable) for example, it is more general

File: Mathlib/Analysis/Complex/Residue/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,383 @@
...
+      _ < R := half_lt_self hR
+
+end PrivateHelpers
+
+
+/-- Holomorphic functions have zero residue. -/
+@[simp]
+lemma residue_of_holomorphic {f : ℂ → ℂ} {c : ℂ} {R : ℝ}
+    (hR : 0 < R) (hd : DifferentiableOn ℂ f (ball c R))
+    (hf : HasIsolatedSingularityAt f c) :
```
Comment (llllvvuu) [inline Mathlib/Analysis/Complex/Residue/Basic.lean:240]: I believe these hypotheses are enough:
```suggestion
lemma residue_of_holomorphic {f : ℂ → ℂ} {c : ℂ}
    (h : ∀ᶠ z in 𝓝 c, DifferentiableAt ℂ f z) :
```

Or `AnalyticAt ℂ f c` also works ([Complex.analyticAt_iff_eventually_differentiableAt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/CauchyIntegral.html#Complex.analyticAt_iff_eventually_differentiableAt))

File: Mathlib/Analysis/Complex/Residue/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,383 @@
...
+  -- conclude
+  rw [hres, hint]
+  exact smul_zero _
+
+/-- For a simple pole `f(z) = (z - c)⁻¹ * g(z)` with `g` holomorphic at `c`,
+the residue equals `g(c)`. -/
+@[simp]
+lemma residue_simple_pole {f g : ℂ → ℂ} {c : ℂ} {R : ℝ}
+    (hR : 0 < R) (hg : DifferentiableOn ℂ g (ball c R))
+    (hfdef : ∀ z, f z = (z - c)⁻¹ * g z) (hf : HasIsolatedSingularityAt f c) :
```
Comment (llllvvuu) [inline Mathlib/Analysis/Complex/Residue/Basic.lean:283]: Probably sufficient:

```suggestion
lemma residue_simple_pole {f g : ℂ → ℂ} {c : ℂ}
    (hg : ∀ᶠ z in 𝓝 c, DifferentiableAt ℂ g z)
    (hfdef : ∀ z, f z = (z - c)⁻¹ * g z) :
```

Or `AnalyticAt ℂ g c` also works ([Complex.analyticAt_iff_eventually_differentiableAt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/CauchyIntegral.html#Complex.analyticAt_iff_eventually_differentiableAt))

File: Mathlib/Analysis/Complex/Residue/Basic.lean (hunk 4 above)
Comment (loefflerd) [reply Mathlib/Analysis/Complex/Residue/Basic.lean:49]: Indeed, it should be possible to work with functions `f : ℂ → E` where `E` is a normed `ℂ`-vector space (some results will need completeness of `E`).

File: Mathlib/Analysis/Complex/Residue/Basic.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Analysis/Complex/Residue/Basic.lean:45]: It would be good to add the lemma that `MeromorphicAt f c` implies `HasIsolatedSingularityAt f c` (but feel free to defer this to a later PR, it doesn't need to be done here).

Comment (Periecle) [reply Mathlib/Analysis/Complex/Residue/Basic.lean:45]: > Alternative definition for your consideration (can be converted to your definition using [eventually_nhdsWithin_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/ContinuousOn.html#eventually_nhdsWithin_iff) and [Metric.eventually_nhds_iff_ball](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Pseudo/Defs.html#Metric.eventually_nhds_iff_ball)):

Good suggestion! I'll switch to the filter-based definition. This aligns better with Mathlib conventions and will make the API more composable with existing filter lemmas.

Comment (Periecle) [reply Mathlib/Analysis/Complex/Residue/Basic.lean:45]: > It would be good to add the lemma that `MeromorphicAt f c` implies `HasIsolatedSingularityAt f c` (but feel free to defer this to a later PR, it doesn't need to be done here).

I'll add this lemma in a follow-up PR as suggested, to keep this PR focused.

File: Mathlib/Analysis/Complex/Residue/Basic.lean (hunk 4 above)
Comment (Periecle) [reply Mathlib/Analysis/Complex/Residue/Basic.lean:49]: Agreed. I'll generalize to f : ℂ → E where E is a normed ℂ-vector space. Will add [CompleteSpace E] hypothesis where needed.

File: Mathlib/Analysis/Complex/Residue/Basic.lean (hunk 3 above)
Comment (Periecle) [reply Mathlib/Analysis/Complex/Residue/Basic.lean:81]: Excellent point about total functions. I'll restructure to first prove HasIsolatedSingularityAt.eventuallyConst_circleIntegral, then define residue as a total function. This will eliminate the need for the radius-independence lemmas

File: Mathlib/Analysis/Complex/Residue/Basic.lean (hunk 2 above)
Comment (Periecle) [reply Mathlib/Analysis/Complex/Residue/Basic.lean:200]: I'll restructure following the eventuallyConst approach. This is much cleaner and eliminates significant boilerplate.

**Comment by hrmacbeth** [comment]
Can you please rewrite the PR description? It sounds very odd: there's a lot of bullet points, unidiomatic emphases (e.g. on `Classical.choose`), and slight exaggeration of the PR's significance.  Personally I associate this combination of features with LLM text, but, whether or not you did write it this text using an LLM, it is out of sync with the community style on how PR descriptions should sound.

The PR description becomes the commit message, so it will be a permanent part of the library.

**Comment by Periecle** [comment]
> Can you please rewrite the PR description? It sounds very odd: there's a lot of bullet points, unidiomatic emphases (e.g. on `Classical.choose`), and slight exaggeration of the PR's significance. Personally I associate this combination of features with LLM text, but, whether or not you did write it this text using an LLM, it is out of sync with the community style on how PR descriptions should sound.
> 
> The PR description becomes the commit message, so it will be a permanent part of the library.

@hrmacbeth yes, that PR description was generated by LLM. I am pretty new to contribution to Mathlib therefore I am not very familiar with conventions of the community. I will rewrite that description and commit message according to standards.
